US04021552
4-(p-Fluorobenzoyl)-1-(3-chloropropyl)piperidine.
Thionyl chloride (38.7 g., 0.376 mole) was added dropwise to a stirring solution of 4-(p-fluorobenzoyl)-1-(3-hydroxypropyl) piperidine (43.1 g., 0.163 mole) in 400 ml. chloroform at room temperature. After the addition was complete the reaction mixture was stirred at room temperature an additional 16 hours. The mixture was then chilled and 125 ml. 6N sodium hydroxide solution was added dropwise. The chloroform solution was separated, washed with water, and dried over magnesium sulfate. Removal of the solvent gave 42.7 g. crude product (92% yield) with crystallized on cooling. Recrystallization from isooctane gave 25.3 g. pure product, m.p. 66.5°-68.5° C.

reactant | Thionyl chloride | 0.376 mole, 38.7 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(p-fluorobenzoyl)-1-(3-hydroxypropyl) piperidine | 0.163 mole, 43.1 g | FC1=CC=C(C(=O)C2CCN(CC2)CCCO)C=C1 | C15H20FNO2
reactant | sodium hydroxide | 6N | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(p-Fluorobenzoyl)-1-(3-chloropropyl)piperidine | 92% yield | FC1=CC=C(C(=O)C2CCN(CC2)CCCCl)C=C1 | C15H19ClFNO
